US06340749B1
Synthesis of Chloro(2-Cyanoethyoxy)pyrrolidinophosphine
To a solution of 2-Cyanoethyldichlorophosphite (2.0 g, 11.6 mmol, 1.5 mL) in CH2Cl2 (30 mL) was added dropwise 4-(trimethylsilyl)pyrrolidine (2.0 mL, 1.7 g, 11.6 mmol) at 0° C. The resulting mixture was stirred overnight at room temperature. The solvent was removed under the reduced pressure to give a colorless oil (2.48 g, 88%) as a product.

reactant | 2-Cyanoethyldichlorophosphite | 11.6 mmol, 1.5 mL, 2.0 g | C(#N)CCOP(Cl)Cl | C3H4Cl2NOP
reactant | 4-(trimethylsilyl)pyrrolidine | 11.6 mmol, 2.0 mL, 1.7 g | C[Si](C1CCNC1)(C)C | C7H17NSi
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Chloro(2-Cyanoethyoxy)pyrrolidinophosphine | 2.48 g, 88% | ClP(N1CCCC1)OCCC#N | C7H12ClN2OP
